US07279487B2
Step 1: Methyl 2-(bromomethyl)-5-fluorobenzoate
With no precautions to maintain a dry atmosphere, methyl 5-fluoro-2-methylbenzoate (Maybridge, 5 g, 29.7 mmole) was dissolved in CCl4 (50 mL). N-bromosuccinimide (5.82 g, 32.7 mmol) and benzoyl peroxide (0.36 g, 1.48 mmole) were added and the reaction brought to reflux overnight. An additional 0.3 eq of NBS and 0.01 eq of benzoyl peroxide was added and the reaction refluxed for 4 hrs, then cooled, filtered and concentrated. The residue was chromatographed on silica eluting with a gradient of 0-10% EtOAc/Hexanes. The fractions were collected to give the product, which was a mixture of mono and bis-brominated materials, as a clear oil.

reactant | methyl 5-fluoro-2-methylbenzoate | 29.7 mmole, 5 g | FC=1C=CC(=C(C(=O)OC)C1)C | C9H9FO2
reactant | N-bromosuccinimide | 32.7 mmol, 5.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.48 mmole, 0.36 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 0.3 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.01 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-(bromomethyl)-5-fluorobenzoate | BrCC1=C(C(=O)OC)C=C(C=C1)F | C9H8BrFO2
